US07691879B2
6-methoxy-1-(4-methyl-1H-imidazol-1-yl)-4-pyrrolidin-1-ylisoquinoline-3-carbonitrile
4-chloro-6-methoxy-1-(4-methyl-1H-imidazol-1-yl)isoquinoline-3-carbonitrile (0.010 g, 0.033 mmol) and pyrrolidine (0.048 g, 0.067 mmol) were combined in isopropanol (1 mL) in a sealed tube and heated at 160° C. in a microwave reactor for 1.5 h. Cooled to rt and partitioned between aqueous saturated NaHCO3 and EtOAc. The organic layer was washed with brine (1×), dried over Na2SO4 and concentrated. Purified by r.p. HPLC. The titled compound was obtained as a tan solid (free base, 0.0065 g, 58%). 1H NMR (500 MHz, CDCl3): δ 7.95 (d, J=9.0 Hz, 1H), 7.91 (s, 1H), 7.55 (d, J=2.7 Hz, 1H), 7.36 (dd, J=9.3, 2.7 Hz, 1H), 7.18(s, 1 H), 4.00 (s, 3H), 3.71-3.69 (m, 4H), 2.19-2.14 (m, 4H). HRMS 334.1666 (M+H)+.

reactant | 4-chloro-6-methoxy-1-(4-methyl-1H-imidazol-1-yl)isoquinoline-3-carbonitrile | 0.033 mmol, 0.010 g | ClC1=C(N=C(C2=CC=C(C=C12)OC)N1C=NC(=C1)C)C#N | C15H11ClN4O
reactant | pyrrolidine | 0.067 mmol, 0.048 g | N1CCCC1 | C4H9N
solvent | isopropanol | 1 mL | C(C)(C)O | C3H8O
product | 6-methoxy-1-(4-methyl-1H-imidazol-1-yl)-4-pyrrolidin-1-ylisoquinoline-3-carbonitrile | COC=1C=C2C(=C(N=C(C2=CC1)N1C=NC(=C1)C)C#N)N1CCCC1 | C19H19N5O
